Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
adhesive tape
 
Attending: ___.
 
Chief Complaint:
Melena
 
Major Surgical or Invasive Procedure:
ERCP ___

 
History of Present Illness:
Ms. ___ is a ___ year old woman with history of MI ___
years ago), HFrEF (EF 40-45%), AF with RVR on warfarin+aspirin,
choledocholithiasis s/p recent ERCP ___ with biliary
sphincterotomy and stent placement and laparascopic
cholecystetectomy ___ who transferred from ___ for
melena. 
 
She originally presented to ___ on ___ with
lightheadedness, and was found to be in afib with RVR by EMS. 
She
was hospitalized ___ where workup revealed
choledocholithiasis for which she underwent ERCP with
sphincterotomy on ___. 

During ERCP a stone in the CBD was not retrieved due to bleeding
at the sphincterotomy site, so a stent was placed for 
hemostasis.
Plan was made for outpatient cholecystectomy with holding
anticoagulation for afib for at least 48 hours. She was
discharged on lovenox with plan to transition to oral
anticoagulation on follow-up after cholecystectomy.
  
Due to worsening abdominal pain, she returned to the hospital 
and
was started on broad-spectrum abx, and was again found to be in
afib with RVR. She then underwent laparascopic cholecystectomy
___ for acute cholecystitis, choledocholithiasis, and
gangrenous cholecystitis with hydrops at ___ with Dr.
___. She was hospitalized ___. Discharge Hb 12.2. 

In discussion with cardiology, she was deemed to not need
bridging lovenox, but was continued on warfarin 3 mg daily for
goal inr ___ to be monitored by ___ services and an event
monitor, both of which would be monitored by Dr. ___
cardiology.
  
She re-presented to ___ ___ with INR 5.05 ___s
approximately 36 hours of black stools, 5+ BMs per day. She was
given vit K 5mg IV and 40 mg IV protonix at OSH, transferred to
___. Hb 10.3.

Repeat INR on arrival 1.4. She was ordered for 2 units pRBC (Hb
7.9 pre-transfusion) and underwent ERCP. 

ERCP performed on ___. There was no blood on endoscopy. 
Stent
had migrated upwards into biliary tree, no e/o bleeding there  
conclusion that she likely bled from sphincterotomy site, which
resolved once INR corrected. Per ERCP, OK to restart warfarin 
and
OK to advance diet.

After the procedure, patient feeling relatively well. She is
"exhausted" but no focal complaints, no abdominal pain at all.
Last BM 1.5 days ago, no melena or BRBPR. No chest pain, 
dyspnea.
 

 
Past Medical History:
HTN
HLD
CAD
HFrEF, EF 45% (___)
Breast cancer s/p lumpectomy/radiation therapy
 
Social History:
___
Family History:
Reviewed and found to be non-contributory to presentation.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================  
VITALS: 98.6PO 130 / 72 87 18 91 RA   
GENERAL: Alert and interactive. In no acute distress.  
HEENT: PERRL, EOMI.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. 
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: No clubbing, cyanosis; 1+ pitting edema in ankles
bilaterally.
SKIN: Warm. No rash.  
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously.  

DISCHARGE PHYSICAL EXAM:  
========================  
24 HR Data (last updated ___ @ 338)
    Temp: 97.9 (Tm 98.4), BP: 145/76 (108-145/58-79), HR: 76
(76-88), RR: 18, O2 sat: 93% (92-96)  
GENERAL: NAD. 
CARDIAC: Event monitor on L. chest wall. RRR, nml s1 s2, no mrg. 

LUNGS: CTAB. 
ABDOMEN: Soft, nd nt. 
EXTREMITIES: Warm, non-pitting doughy lower extremities.  
 
Pertinent Results:
ADMISSION LABS:
================
___ 07:08PM BLOOD WBC-8.0 RBC-2.86* Hgb-8.8* Hct-27.5* 
MCV-96 MCH-30.8 MCHC-32.0 RDW-14.5 RDWSD-51.1* Plt ___
___ 07:08PM BLOOD Neuts-64.6 ___ Monos-8.0 Eos-2.9 
Baso-0.5 Im ___ AbsNeut-5.17 AbsLymp-1.80 AbsMono-0.64 
AbsEos-0.23 AbsBaso-0.04
___ 07:08PM BLOOD ___ PTT-28.9 ___
___ 07:08PM BLOOD Glucose-93 UreaN-24* Creat-0.6 Na-139 
K-4.6 Cl-104 HCO3-24 AnGap-11
___ 07:08PM BLOOD ALT-25 AST-45* AlkPhos-262* TotBili-0.4
___ 07:08PM BLOOD cTropnT-<0.01
___ 07:08PM BLOOD Lipase-40
___ 07:08PM BLOOD Albumin-2.5* Calcium-8.0* Phos-3.3 Mg-2.0

DISCHARGE LABS:
================
___ 07:25AM BLOOD WBC-6.5 RBC-3.44* Hgb-10.3* Hct-32.4* 
MCV-94 MCH-29.9 MCHC-31.8* RDW-14.9 RDWSD-51.2* Plt ___
___ 07:25AM BLOOD Glucose-98 UreaN-7 Creat-0.5 Na-141 K-4.0 
Cl-104 HCO3-26 AnGap-11

REPORTS:
================
 

 
___ 8:00 am URINE

   URINE CULTURE (Preliminary): 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    32 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

___ ERCP:
Limited views of esophagus, stomach. Periampullary diverticulum. 
Ampulla was adjacent to the diverticulum. No stent seen on 
endoscopic view. No bleeding or stigmata of bleeding. 
Sphicterotome was used to cannulate the ampulla. Fluoroscopy 
showed that the stent had migrated into the CBD. No evidence of 
bleeding or stimagata throughout examined esophagus, stomach, or 
duodenum. 

 
 

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with history of MI ___ 
years ago), HFrEF (EF 40-45%), AF with RVR on warfarin+aspirin, 
choledocholithiasis s/p recent ERCP ___ with biliary 
sphincterotomy and stent placement and laparascopic 
cholecystetectomy ___ who transferred from ___ for 
melena and anemia in setting of supratherapeutic INR. 

ACUTE ISSUES:
=============
# Melena
# Supratherapeutic INR
# Anemia ___ acute GI bleed
# Choledocholithiasis s/p ERCP and CCY
Patient with choledocholithiasis s/p ERCP ___ with 
sphincterotomy and stent, cholecystectomy ___, p/w melena and 
anemia likely from supratherapeutic INR and post-sphincterotomy 
bleed. Hgb at admission was 8.8 (down to 7.9 on ___ she 
required 2U pRBC and Hgb increased appropriately. Repeat ERCP on 
___ with no bleeding, presumed to have stopped after INR 
corrected. Prior to discharge, she was switched from warfarin to 
apixaban, particularly given pt was supratherapeutic on warfarin 
and possible supratherapeutic levels in the future were felt to 
be a risk for rebleed. Will need repeat ERCP in one week for 
stent removal; per Dr ___ eliquis 2 days prior to ERCP 
(not scheduled at time of discharge). Okay to continue ASA. 
Started PPI prior to discharge per GI. 

# Afib
CHADSVasc 5 (age, sex, HTN, CHF). New diagnosis in last month in 
setting of biliary pathology above, multiple episodes of RVR. 
This admission in sinus rhythm; adequate rate control with 
metoprolol while inpatient. Attempted to contact outpatient 
cardiologist via email, but did not hear back. As above, she was 
switched from warfarin to Eliquis 5mg bid (Weight 73.2kg, 161.38 
lbs). We reached out to Pharmacy, as pt would have to pay $50 
for 15-day supply. Discussed this with patient and family; they 
are willing to pay higher ___ for Eliquis for now (other DOACs 
were more expensive). Pharmacy helped apply pt for voucher and 
will discuss with patient re: additional insurance/assistance 
programs to help make this more affordable. Discussed risks and 
benefits of NOAC with patient, including that warfarin was much 
more easily reversible but also carried the risk of 
supratherapeutic levels. We overall felt that NOAC would be 
safer given that it would avoid the risk of supratherapeutic 
dosing, as this an INR of 5 was the likely trigger for her 
recent bleed which then resolved after INR decreased.

# Transaminitis
AST elevated to 45 at admission, has had transaminitis in the 
past. ___ be ___ etoh use based on LFT pattern, statin + 
ezetimbe use (see below), and recent cholelithiasis and 
cholecystitis. Elevated ALT 41 and AST 77 at discharge, which 
warrants further outpatient followup.

# Electrolytes
Patient with hypoMg and hypoK on previous admissions and 
prescribed PO supplements. 

# Weakness
Patient has felt weaker for past 3 weeks given multiple 
hospitalizations for biliary pathology and reduced ambulation. 
At baseline, patient is independent with ADLs. Currently, 
patient is using walker. Per patient's request and Physical 
Therapy evaluation, patient to continue increasing physical 
exercise at home with help of ___.

CHRONIC ISSUES:
===============
# CAD: Remote history of MI, ___ TTE with clear septal 
anterior apical WMA, no cardiac symptoms at present. Continue 
ASA 81 mg. Outpatient cardiology follow up.

# HFrEF: On ___ ___ TTE, LVEF 45%, clear septal 
anterior apical WMA. Continued furosemide 20 mg PO qD PRN for 
ankle swelling. Continue metoprolol given reduced EF.

# HLD: Ezetimibe-simvastatin ___ mg PO qD replaced with 
simvastatin while hospitalized as the combination was not 
available on inpatient formulary. Continue ASA as above.

TRANSITIONAL ISSUES
===================
[]Recheck CBC, LFTs. Monitor for further GI bleeds. 
[]GI to schedule repeat ERCP for stent removal in 1 week.
[]Per Dr. ___: Hold Eliquis 2 days prior to repeat 
ERCP if okay with cardiologist. Okay to continue ASA 81mg qd. GI 
will also call patient to confirm this plan. 
[]Will need outpatient Cardiology f/u for Afib. 
[] switched from warfarin to apixaban as above
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 3 mg PO DAILY16 
2. Furosemide 20 mg PO DAILY:PRN ankle swelling 
3. Magnesium Oxide 800 mg PO BID 
4. Potassium Chloride 20 mEq PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Metoprolol Tartrate 50 mg PO BID 
7. ezetimibe-simvastatin ___ mg oral DAILY 
8. Cyanocobalamin Dose is Unknown  PO DAILY 
9. Vitamin D3 (cholecalciferol (vitamin D3)) 2,000 unit oral 
DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID atrial fibrillation  
2.  Pantoprazole 40 mg PO Q24H  
3.  Cyanocobalamin 100 mcg PO DAILY  
4.  Aspirin 81 mg PO DAILY 
You may need to stop this before the GI stent removal. Please 
discuss this with them.  
5.  ezetimibe-simvastatin ___ mg oral DAILY  
6.  Furosemide 20 mg PO DAILY:PRN ankle swelling  
7.  Magnesium Oxide 800 mg PO BID  
8.  Metoprolol Tartrate 50 mg PO BID  
9.  Potassium Chloride 20 mEq PO DAILY  
10.  Vitamin D3 (cholecalciferol (vitamin D3)) 2,000 unit oral 
DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Acute blood loss anemia secondary to gastrointestinal bleed
Supratherapeutic INR

SECONDARY DIAGNOSES
===================
Atrial fibrillation
Choledocholithiasis status post cholecystectomy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
====================== 
DISCHARGE INSTRUCTIONS 
====================== 
Dear ___ was a privilege caring for you at ___. 

WHY WAS I IN THE HOSPITAL? 
- You were seen at ___ for multiple black stools caused by GI 
bleeding after your gallbladder removal. This was probably 
because your blood was very thin due to taking warfarin. 

WHAT HAPPENED TO ME IN THE HOSPITAL? 
- We gave you some blood. 
- We did a repeat procedure on ___ which showed there was 
no active bleeding. 
- We stopped your warfarin and started you on a new blood 
thinner called "Eliquis (apixaban)." 
- We also started you on a medication called pantoprazole. The 
GI doctors would ___ to take this medication given concern 
for GI bleeding. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL? 
- Continue to take all your medicines and keep your 
appointments.
- We are working on making your Eliquis more affordable. Please 
contact our Pharmacy Department at ___. We also applied 
for a voucher on your behalf to try to make this medication more 
affordable. 
- The GI Department is working on scheduling a repeat procedure 
to remove the stent in your gut. If you do not hear back from 
them in ___ business days, please call them at ___. You 
will need to stop taking your Eliquis 2 days prior to the 
procedure. Please make sure you confirm when to hold your 
blood-thinning medication (Eliquis) when you speak with them. 

We wish you the best! 

Sincerely, 
Your ___ Team 

 
Followup Instructions:
___